US04016161
2-dimethylamino-1,2,3,4,10,14b-hexahydro-pyridino[1,2-a]-dibenzo [c,f]-azepine
4 g of 2-tosyloxy-1,2,3,4,10,14b-hexahydro-pyridino[1,2-a] -dibenzo[ c,f]-azepine (eg.) are dissolved in 50 ml of dimethylsulphoxide. After that 15 ml of dimethylamine are added to the solution. This solution is now heated in a sealed ampoule on a vapour-bath for 2 hours. After cooling the solution, it is poured into 300 ml of water after which the mixture is extracted with 3×200 ml of ether. The ether layers are washed and then dried, whereupon the solvent is evaporated and the residue is recrystallized. Yield: 1.3 g.

reactant | 2-tosyloxy-1,2,3,4,10,14b-hexahydro-pyridino[1,2-a] -dibenzo[ c,f]-azepine | 4 g | S(=O)(=O)(C1=CC=C(C)C=C1)OC1CC2N(C3=C(CC4=C2C=CC=C4)C=CC=C3)CC1 | C25H25NO3S
reactant | dimethylamine | 15 ml | CNC | C2H7N
reactant | water | 300 ml | O | H2O
solvent | dimethylsulphoxide | 50 ml | CS(=O)C | C2H6OS
product | 2-dimethylamino-1,2,3,4,10,14b-hexahydro-pyridino[1,2-a]-dibenzo [c,f]-azepine | CN(C1CC2N(C3=C(CC4=C2C=CC=C4)C=CC=C3)CC1)C | C20H24N2
